US07176306B2
2,4-Dichloro-6-methyl-3-nitropyridine (30 g, 144.9 mmol) was dissolved in ethanol (300 mL), and Raney nickel (1.50 g, 25.6 mmol) was added to the solution, followed by stirring for 7 hours at 60° C. under hydrogen atmosphere (0.15 MPa). Raney nickel was removed through filtration, and the filtrate was concentrated under reduced pressure. The residue was dissolved in chloroform (60 mL), and the solution was left to stand for one hour. Subsequently, the formed insoluble substance was removed through filtration, and the filtrate was concentrated under reduced pressure, to thereby yield 24.62 g of 3-amino-2,4-dichloro-6-methylpyridine (yield: 96%) as a colorless solid. The product was recrystallized from hexane, to thereby yield colorless crystals.

reactant | 2,4-Dichloro-6-methyl-3-nitropyridine | 144.9 mmol, 30 g | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C | C6H4Cl2N2O2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | Raney nickel | 25.6 mmol, 1.50 g | [Ni] | Ni
product | 3-amino-2,4-dichloro-6-methylpyridine | yield 24.62 g, yield: 96% | NC=1C(=NC(=CC1Cl)C)Cl | C6H6Cl2N2
